US07214798B2
6.4. 2-Amino-2-oxoethyl 2-[1-(6-fluoro-1-isoquinolyl)-4-piperidyl]ethylcarbamate
The process is performed according to the procedure described in Example 3 (step 3.4). Starting with 0.597 g (1.67 mmol) of 3-{2-[1-(6-fluoro-1-isoquinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, obtained in Step 6.3, and 14.30 ml (100.20 mmol) of a solution (7M) of aqueous ammonia in methanol, and after chromatography on silica gel, eluting with a 95/5 mixture of dichloromethane and methanol, followed by recrystallization from diisopropyl ether, 0.168 g of pure product is obtained in the form of a white solid.

reactant | 3-{2-[1-(6-fluoro-1-isoquinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 1.67 mmol, 0.597 g | FC=1C=C2C=CN=C(C2=CC1)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H20FN3O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Amino-2-oxoethyl 2-[1-(6-fluoro-1-isoquinolyl)-4-piperidyl]ethylcarbamate | 100.20 mmol, 7M, 14.30 ml | FC=1C=C2C=CN=C(C2=CC1)N1CCC(CC1)CCNC(OCC(=O)N)=O | C19H23FN4O3
